US07375134B2
N-(Benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester and DBU were dissolved in dry methylene chloride (50 mL) and the reaction mixture was chilled to −30° C. 3,3,3-Trifluoropropanal (1 eq) was added dropwise to the chilled and stirred solution and the reaction was allowed to stir for an additional hour at −30° C., and then overnight at ambient temperature. Methylene chloride (ca. 100 mL) was added and the organic phase was washed with 1N HCl (ca. 100 mL), then saturated brine (ca. 100 mL). The organic phase was dried over MgSO4, filtered, and concentrated by rotary evaporation. This crude product was purified by silica gel chromatography with a gradient of 10-30% ethyl acetate in hexanes to yield 2-benzyloxycarbonylamino-5,5,5-trifluoro-pent-2-enoic acid methyl ester as a white, crystalline solid.

reactant | N-(Benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester | COC(=O)C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C13H18NO7P
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3,3,3-Trifluoropropanal | 1 eq | FC(CC=O)(F)F | C3H3F3O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | ca. 100 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyloxycarbonylamino-5,5,5-trifluoro-pent-2-enoic acid methyl ester | COC(C(=CCC(F)(F)F)NC(=O)OCC1=CC=CC=C1)=O | C14H14F3NO4
